US06972294B1
(Z)-(2S)-3-[4-(3-Biphenyl-4-yl-3-phenyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
Reaction of (Z)-3-biphenyl-4-yl-3-phenyl-prop-2-en-1-ol (171 mg, 0.60 mmol), triphenylphosphine (142 mg, 0.63 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (149 mg, 0.63 mmol) and diethyl azodicarboxylate (95 mg, 0.55 mmol) in an identical manner to example 1 gave the title compound (160 mg, 53%).

reactant | (Z)-3-biphenyl-4-yl-3-phenyl-prop-2-en-1-ol | 0.60 mmol, 171 mg | C1(=CC=C(C=C1)\C(=C/CO)\C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O
reactant | triphenylphosphine | 0.63 mmol, 142 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 0.63 mmol, 149 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | diethyl azodicarboxylate | 0.55 mmol, 95 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | (Z)-(2S)-3-[4-(3-Biphenyl-4-yl-3-phenyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 160 mg, 53% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)C1=CC=CC=C1)OCC)=O | C34H34O4
